US07906533B2
To a stirred and chilled (0° C.) suspension of 2-methyl-2H-indazol-6-ylamine (1.52 g) in DCE (6 mL), under nitrogen, was added trimethylaluminium (2M solution in toluene, 5 mL, 9.37 mmol). This mixture was added dropwise to a stirred and chilled (0° C.) solution of 2-[(2-chloro-pyridin-4-ylmethyl)-amino]-nicotinic acid methyl ester (1.45 g, 5.21 mmol) in DCE (14.7 mL). The mixture was heated at 100° C. for 2 hours before cooling to room temperature and quenching by pouring into aqueous sodium-potassium tartrate solution. The mixture was extracted with EtOAc and the combined organic layers washed successively with dilute aqueous citric acid solution, dilute aqueous sodium hydrogen carbonate solution and brine, dried and concentrated in vacuo to give 2-[(2-chloro-pyridin-4-ylmethyl)-amino]-N-(2-methyl-2H-indazol-6-yl)-nicotinamide (1.58 g); 1H-NMR (300 MHz, d6-DMSO) 10.26 (1H, s), 8.40 (1H, t), 8.28 (1H, d), 8.25 (1H, s), 8.06-8.12 (3H, m), 7.62 (1H, d), 7.35 (1H, s), 7.30 (1H, unresolved dd), 7.27 (1H, unresolved dd), 6.68 (1H, dd), 4.67 (2H, d), 4.10 (3H, s).

reactant | 2-methyl-2H-indazol-6-ylamine | 1.52 g | CN1N=C2C=C(C=CC2=C1)N | C8H9N3
reactant | trimethylaluminium | 9.37 mmol, 2M, 5 mL | C[Al](C)C
reactant | 2-[(2-chloro-pyridin-4-ylmethyl)-amino]-nicotinic acid methyl ester | 5.21 mmol, 1.45 g | COC(C1=C(N=CC=C1)NCC1=CC(=NC=C1)Cl)=O | C13H12ClN3O2
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
solvent | DCE | 14.7 mL | ClCCCl | C2H4Cl2
product | 2-[(2-chloro-pyridin-4-ylmethyl)-amino]-N-(2-methyl-2H-indazol-6-yl)-nicotinamide | 1.58 g | ClC1=NC=CC(=C1)CNC1=C(C(=O)NC=2C=CC3=CN(N=C3C2)C)C=CC=N1 | C20H17ClN6O
